US07855216B2
Step 3: 3-(4-Cyclopropyl-2-fluoro-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid
A solution of 3-(4-cyclopropyl-2-fluoro-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (197 mg, 0.50 mmol) and 1M NaOH (1.02 ml, 1.02 mmol) in IMS (3 ml) was heated at 60° C. for 2 hours. The reaction mixture was cooled to ambient temperature then acidified to pH 4 using acetic acid. The brown solid was filtered off, the residue dried to provide the title compound (161 mg, 97%). LCMS (method B): RT=2.18 min, M+H+=326.

reactant | 3-(4-cyclopropyl-2-fluoro-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.50 mmol, 197 mg | C(C)OC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)C1CC1)F | C20H20FN3O2
reactant | NaOH | 1.02 mmol, 1M, 1.02 ml | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(4-Cyclopropyl-2-fluoro-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid | 161 mg, 97% | C1(CC1)C1=CC(=C(C=C1)NC1=C(N(C2=C1C=NC=C2)C)C(=O)O)F | C18H16FN3O2
